US06495217B2
Methyl 5-(4-methoxyphenyl)-2,2-dimethyl -1,3-dioxolane 4-carboxylate (1.3)
Methyl 2,3-dihydroxy-3-(4-methoxyphenyl)propanoate (3.5 g, 15.5 mmol), copper sulphate anhydrous (4.3 g, 27 mmol, 1.8 equiv.) and acetone (40 ml, excess) were stirred in the presence of a catalytic amount of para-toluene sulphonic acid at 35° C. After 16 hours, the copper sulphate was removed by filtration, and the filtrate was removed and evaporated to dryness on a rotary evaporator. The product was purified by flash column chromatography using DCM as eluant. Evaporation of the appropriate fractions left methyl 5-(4-methoxyphenyl)-2,2-dimethyl -1,3-dioxolane 4-carboxylate as a clear, colourless oil (4.0 g, 96%). [a]D=+37.4° (THF, conc.=0.01712, 20° C). 1H-NMR was in accordance with expected signals.

reactant | Methyl 2,3-dihydroxy-3-(4-methoxyphenyl)propanoate | 15.5 mmol, 3.5 g | OC(C(=O)OC)C(C1=CC=C(C=C1)OC)O | C11H14O5
reactant | para-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | copper sulphate | 27 mmol, 4.3 g, 1.8 equiv. | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | Methyl 5-(4-methoxyphenyl)-2,2-dimethyl -1,3-dioxolane 4-carboxylate | COC1=CC=C(C=C1)C1C(OC(O1)(C)C)C(=O)OC | C14H18O5
